US04904671
(d) 1-[4-(Hydroxymethyl)benzyl]-2-methylimidazo[4,5-c]pyridine
1-(4-Ethoxycarbonylbenzyl)-2-methylimidazo[4,5-c]pyridine (2.0 g) was suspended in tetrahydrofuran (50 ml) under N2 and lithium aluminium hydride (0.16 g) was added portionwise over 5 minutes. The mixture was stirred at room temperature for 1 hour and then water was added cautiously, followed by saturated ammonium chloride solution. The mixture was extracted with ethyl acetate (3×50 ml) and the combined extracts were dried over Na2SO4, filtered and evaporated under vacuum. The residue was chromatographed on silica eluting with a mixture of methylene chloride and methanol and the fractions containing the product were evaporated to yield the title compound, (0.64 g).

reactant | 1-(4-Ethoxycarbonylbenzyl)-2-methylimidazo[4,5-c]pyridine | 2.0 g | C(C)OC(=O)C1=CC=C(CN2C(=NC=3C=NC=CC32)C)C=C1 | C17H17N3O2
reactant | lithium aluminium hydride | 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[4-(Hydroxymethyl)benzyl]-2-methylimidazo[4,5-c]pyridine | 0.64 g | OCC1=CC=C(CN2C(=NC=3C=NC=CC32)C)C=C1 | C15H15N3O
